US04144338
A. 2-(2-Diisopropylaminoethylamino)-4, 6-dimethyl pyrimidine.
To 600 ml of dry dimethylformamide is added 2-acetamido-4,6-dimethylpyrimidine (34.8 g., 0.21 mole) and 2-diisopropylaminoethyl chloride hydrochloride (48 g., 0.24 mole). The mixture is stirred under nitrogen and sodium hydride (50% in mineral oil) (24.7 g., 0.515 mole) is added in portions over one hour while the temperature is maintained below 45° C. The mixture is then heated at 75°-78° C. for 1/2 hour and then at 90°-95° C. for 31/2 hours. On cooling, ethanol, 25 ml, is added and the solvents removed under reduced pressure. The residue is suspended in 75 ml of 1-propanol and 400 ml of 5N sodium hydroxide and refluxed with stirring for 18 hours. On cooling the mixture is extracted with methylene chloride. The organic extracts are then extracted with dilute hydrochloric acid. The acid extracts are extracted with hexane and then made alkaline with a molar excess of sodium hydroxide. The crude product is extracted from the basic solution with diethyl ether. The ethereal extracts are washed with saturated sodium chloride solution, dried over sodium sulfate and concentrated under vacuum. The residue is distilled and the product diamine (37.2 g., 0.149 mole) collected at 130°-134° C./0.4 mm; melting point 79.5°-82° C.

reactant | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
reactant | 2-acetamido-4,6-dimethylpyrimidine | 0.21 mole, 34.8 g | C(C)(=O)NC1=NC(=CC(=N1)C)C | C8H11N3O
reactant | 2-diisopropylaminoethyl chloride hydrochloride | 0.24 mole, 48 g | Cl.C(C)(C)N(CCCl)C(C)C
reactant | sodium hydride | 0.515 mole, 24.7 g | [H-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-Diisopropylaminoethylamino)-4, 6-dimethyl pyrimidine | C(C)(C)N(CCNC1=NC(=CC(=N1)C)C)C(C)C | C14H26N4
